US09340538B2
Step A: (S)-2-(benzylamino)-3-hydroxy-2-methylpropanoic acid
(S)-2-amino-3-hydroxy-2-methylpropanoic acid (1.2 g, 10 mmol) was reacted with benzaldehyde (1.06 g, 10 mmol) according to the procedure as described in Example 46, Step A to give the title compound as a gray solid (1.05 g, 50%). The compound was characterized by the following spectroscopic data:

reactant | (S)-2-amino-3-hydroxy-2-methylpropanoic acid | 10 mmol, 1.2 g | N[C@](C(=O)O)(CO)C | C4H9NO3
reactant | benzaldehyde | 10 mmol, 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
product | (S)-2-(benzylamino)-3-hydroxy-2-methylpropanoic acid | 1.05 g, 50% | C(C1=CC=CC=C1)N[C@](C(=O)O)(CO)C | C11H15NO3
